US09056859B2
A solution of 5-aminoindane-1-carboxylic acid (2.95 g, 16.7 mmol), sodium azide (1.20 g, 18.3 mmol) and triethyl orthoformate (7.42 g, 50.1 mmol) in 20 mL of actic acid was heated to 100° C. for 3 hrs. After the reaction was completed, the mixture was cooled to ambient temperature. The solution was removed under vacuum and the residue was diluted with EtOAc, washed with brine, dried over anhydrous Na2SO4 and concentrated. The residue was purified with silica gel column chromatograph to give the crude product, then re-crystalization from DCM to yield 5-(1H-tetrazol-1-yl)indane-1-carboxylic acid. 1H-NMR (400 MHz, DMSO) δ ppm 10.0 (s, 1H), 7.75 (s, 1H), 7.66˜7.69 (m, 1H), 7.55 (d, J=8.1 Hz, 1H), 4.02˜4.06 (m, 1H), 2.88˜3.08 (m, 2H), 2.31 (q, J=8.1 Hz, 2H).

reactant | 5-aminoindane-1-carboxylic acid | 16.7 mmol, 2.95 g | NC=1C=C2CCC(C2=CC1)C(=O)O | C10H11NO2
reactant | sodium azide | 18.3 mmol, 1.20 g | [N-]=[N+]=[N-].[Na+]
reactant | triethyl orthoformate | 50.1 mmol, 7.42 g | C(OCC)(OCC)OCC | C7H16O3
solvent | actic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 5-(1H-tetrazol-1-yl)indane-1-carboxylic acid | N1(N=NN=C1)C=1C=C2CCC(C2=CC1)C(=O)O | C11H10N4O2
